US04264597
To a solution of benzyl 7β-(2-phenoxyacetamido)-2-oxo-3-cephem-4-carboxylate (294 mg) in methylene chloride (7 ml) were added successively N,N-dimethylaniline (0.17 ml) and phosphorus pentachloride (281 mg) at -35° C. The mixture was stirred for 1.5 hours at -35° to -30° C. and cooled to -50° C. and then thereto was added methanol (0.57 ml). After the temperature was raised gradually to 0° C. over a period of 1.5 hours, water (0.5 ml) was added. The precipitates were collected by filtration and washed with a small amount of isopropyl alcohol to give benzyl 7β-amino-2-oxo-3-cephem-4-carboxylate hydrochloride (96.5 mg).

reactant | benzyl 7β-(2-phenoxyacetamido)-2-oxo-3-cephem-4-carboxylate | 294 mg | O(C1=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=CC(S2)=O)C(=O)OCC2=CC=CC=C2)C1=O | C22H18N2O6S
reactant | N,N-dimethylaniline | 0.17 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosphorus pentachloride | 281 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | methanol | 0.57 ml | CO | CH4O
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
solvent | water | 0.5 ml | O | H2O
product | benzyl 7β-amino-2-oxo-3-cephem-4-carboxylate hydrochloride | 96.5 mg | Cl.N[C@H]1[C@@H]2N(C(=CC(S2)=O)C(=O)OCC2=CC=CC=C2)C1=O | InChI=1S/C14H12N2O4S.ClH/c15-11-12(18)16-9(6-10(17)21-13(11)16)14(19)20-7-8-4-2-1-3-5-8;/h1-6,11,13H,7,15H2;1H/t11-,13-;/m1./s1
